US09415045B2
Oxymorphone triflate (3.0 g, 7.0 mmol) was stirred in degassed DMSO (40 mL). N-hydroxysuccinimide (1.60 g, 13.9 mmol) was added followed by triethylamine (1.94 mL, 13.9 mmol), palladium acetate (156 mg, 0.7 mmol) and xantphos (402 mg, 0.7 mmol). The reaction mixture was stirred at 70° C. under an atmosphere of CO overnight. Further palladium acetate (1.04 g, 4.61 mmol) and xantphos (2.68 g, 4.63 mmol) were added and the reaction mixture heated 6 hours 70° C. under an atmosphere of CO. The mixture was allowed to return to room temperature before the addition of 4-(4-(2-aminoethyl)phenyl)pyridin-2(1H)-one hydrochloride (2.0 g, 8.0 mmol) and triethylamine (2 mL, 14.3 mmol). The reaction was stirred for 1 hour before removal of the DMSO under reduced pressure. The residue was subject to column chromatography (0 to 5% MeOH (NH3) in DCM). The isolated residue was found to still contain DMSO and was portioned between DCM (500 mL) and water (250 mL). The aqueous phase was extracted a further five times until the product was completely extracted. The organic phases were combined and the solvent removed under reduced pressure giving (4R,4aS,7aR,12bS)-4a-hydroxy-3-methyl-7-oxo-N-(4-(2-oxo-1,2-dihydropyridin-4-yl)phenethyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carboxamide (Compound-15; 1.2 g, 2.3 mmol, 33% yield).

reactant | Oxymorphone triflate | 7.0 mmol, 3.0 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.[O-]S(=O)(=O)C(F)(F)F
reactant | N-hydroxysuccinimide | 13.9 mmol, 1.60 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 13.9 mmol, 1.94 mL | C(C)N(CC)CC | C6H15N
reactant | xantphos | 0.7 mmol, 402 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | xantphos | 4.63 mmol, 2.68 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-(4-(2-aminoethyl)phenyl)pyridin-2(1H)-one hydrochloride | 8.0 mmol, 2.0 g | Cl.NCCC1=CC=C(C=C1)C1=CC(NC=C1)=O
reactant | triethylamine | 14.3 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.7 mmol, 156 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 4.61 mmol, 1.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 250 mL | O | H2O
solvent | MeOH | CO | CH4O
product | (4R,4aS,7aR,12bS)-4a-hydroxy-3-methyl-7-oxo-N-(4-(2-oxo-1,2-dihydropyridin-4-yl)phenethyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carboxamide | 2.3 mmol, 1.2 g, 33% yield | O[C@]12CCC([C@H]3[C@@]24CCN([C@@H]1CC1=CC=C(C(=C14)O3)C(=O)NCCC3=CC=C(C=C3)C3=CC(NC=C3)=O)C)=O | C31H31N3O5
